US04713474
A similar procedure to Example 1 is carried out by using 18 g of propyl p-hydroxybenzoate and 8.5 g of glutaric acid dichloride to yield di(p-propyloxycarbonylphenyl)glutarate, m.p. 74°-75° C., as white crystals.

reactant | propyl p-hydroxybenzoate | 18 g | OC1=CC=C(C(=O)OCCC)C=C1 | C10H12O3
reactant | glutaric acid dichloride | 8.5 g | C(CCCC(=O)Cl)(=O)Cl | C5H6Cl2O2
product | di(p-propyloxycarbonylphenyl)glutarate | C(CC)OC(=O)C1=CC=C(C=C1)OC(CCCC(=O)OC1=CC=C(C=C1)C(=O)OCCC)=O | C25H28O8
